US04841042
(3S,4R)-3-[(1R)-1-tert.-Butyldimethylsilyloxyethyl]-4-[3-allyloxycarbonyl-3-diazo-2-oxopropyl]azetidin-2-one
7.2 ml (52 mmol - 2.6 equivalents) of triethylamine are added to a solution, which has been cooled to 0° C., of 5.75 g (20 mmol) of (3R,4R)-4-acetoxy-3-[(1R)-1-tert.-butyldimethylsilyloxyethyl]azetidin-2-one [S. Oida et al. Chem. Pharm. Bull. 29 2899 (1981); M. Shiozaki et al. Tetrahedron 39 2399 (1983)] and 4.37 g (26 mmol - 1.3 equivalents) of allyl 2-diazo-3-oxobutanoate in 190 ml of anhydrous dichloromethane, and then 9.3 ml (48 mmol - 2.4 equivalents) of trimethylsilyl trifluoromethanesulphonate are added dropwise. The cooling bath was removed, and the mixture was stirred at room temperature for 1 h, 1.55 ml (8 mmol - 0.4 equivalent) of trimethylsilyl trifluoromethanesulphonate were added, and the mixture was stirred for a further 0.5 h at room temperature. The reaction solution was then poured into a mixture of cold, saturated NaHCO 3 solution and ethyl acetate, and extraction with ethyl acetate was carried out, and the combined organic extracts were washed with saturated NaCl solution and dried over MgSO4. The solvent was evaporated in vacuo, and the residue was filtered through 150 g of silica gel (toluene:ethyl acetate 4:1). 6.4 g (81%) of the title compound were obtained as pale crystals, melting point: 66° C., Rf: 0.33 (toluene:ethyl acetate 7:3) [α]D20 =59.2° (c 0.969, CHCl3).

reactant | triethylamine | 7.2 ml | C(C)N(CC)CC | C6H15N
reactant | (3R,4R)-4-acetoxy-3-[(1R)-1-tert.-butyldimethylsilyloxyethyl]azetidin-2-one | 20 mmol, 5.75 g | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](CO[SiH](C)C)C(C)(C)C | C13H25NO4Si
reactant | allyl 2-diazo-3-oxobutanoate | 4.37 g | [N+](=[N-])=C(C(=O)OCC=C)C(C)=O | C7H8N2O3
reactant | trimethylsilyl trifluoromethanesulphonate | 9.3 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | dichloromethane | 190 ml | ClCCl | CH2Cl2
product | (3S,4R)-3-[(1R)-1-tert.-Butyldimethylsilyloxyethyl]-4-[3-allyloxycarbonyl-3-diazo-2-oxopropyl]azetidin-2-one | 6.4 g, 81% | C(C)(C)(C)[C@H](CO[SiH](C)C)[C@@H]1C(N[C@@H]1CC(C(=[N+]=[N-])C(=O)OCC=C)=O)=O | C18H29N3O5Si
